* NMOS Id-Vd ng=1

* bind osdi to spice model
.model sg13_lv_nmos sg13g2_lv_nmos_psp

.option reltol=1e-4

vg 1 0 1.2
vd 2 0 1.2

N1 2 1 0 0 sg13_lv_nmos w=0.3u l=0.34u ng=1 rfmode=0

.control
pre_osdi sg13g2_moslv_paramset_openvaf_nolocalparam_instance.osdi
set wr_vecnames
set wr_singlescale
dc vd 0.0 1.2 0.02 vg 0.2 1.2 0.2
wrdata check/tb_moslv_nmos_id_vd_ng1.sp.out v(1) i(vd)
.endc
.end
